US08633173B2
To a solution of 4-[2-(4-methoxy-phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (100.0 mg, 0.2372 mmol) in dichloromethane (2 mL, 30 mmol) was added trifluoroacetic Acid (1 mL, 10 mmol). The mixture was stirred at room temperature for 4 days then evaporated to a resin. The residue was dissolved in dichloromethane (20 mL) and stirred with saturated aqueous potassium carbonate for 10 minutes. The organic layer was separated, dried over magnesium sulfate, filtered and evaporated. (4-Methoxy-phenyl)-[8-(1,2,3,6-tetrahydro-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was isolated yellow-brown resin (0.047 g, 62%) and was used without further purification. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.29 (dd, J=6.6, 0.9 Hz, 1H), 7.52-7.47 (m, 2H), 7.32 (dd, J=7.4, 0.8 Hz, 1H), 7.29-7.25 (m, 1H), 6.94-6.89 (m, 2H), 6.83 (dd, J=7.2, 6.7 Hz, 1H), 6.71 (s, 1H), 3.81 (s, 3H), 3.68-3.64 (m, 2H), 3.17 (t, J=5.7 Hz, 2H), 2.61-2.55 (m, 2H). MS=322 (MH)+.

reactant | 4-[2-(4-methoxy-phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.2372 mmol, 100.0 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OC | C23H27N5O3
reactant | dichloromethane | 30 mmol, 2 mL | ClCCl | CH2Cl2
reactant | trifluoroacetic Acid | 10 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (4-Methoxy-phenyl)-[8-(1,2,3,6-tetrahydro-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | COC1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C=2CCNCC2)=N1 | C18H19N5O
